US05409936
A mixture of ethyl 2-ethyl-3-[2'-(t-butoxycarbonyl)biphenyl-4-yl]methyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylate (2.26 g), acetic anhydride (0.94 g), sodium hydrogen carbonate (2.33 g), chloroform (18 ml) and water (18 ml) is stirred overnight at room temperature. The organic layer is separated, washed with brine, dried, and evaporated. The residue is purified by silica gel column chromatography (solvent; chloroform/methanol) to give ethyl 2-ethyl-5-acetyl-3-[2'-(t-butoxycarbonyl)biphenyl-4-yl]methyl-4,5,6,7-tetrahydroimidazo [4,5-c]pyridine-4-carboxylate (2.10 9) as a white foam.

reactant | ethyl 2-ethyl-3-[2'-(t-butoxycarbonyl)biphenyl-4-yl]methyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylate | 2.26 g | C(C)C1=NC2=C(C(NCC2)C(=O)OCC)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC(C)(C)C | C29H35N3O4
reactant | acetic anhydride | 0.94 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium hydrogen carbonate | 2.33 g | C(O)([O-])=O.[Na+]
reactant | chloroform | 18 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 18 ml | O | H2O
product | ethyl 2-ethyl-5-acetyl-3-[2'-(t-butoxycarbonyl)biphenyl-4-yl]methyl-4,5,6,7-tetrahydroimidazo [4,5-c]pyridine-4-carboxylate | C(C)C1=NC2=C(C(N(CC2)C(C)=O)C(=O)OCC)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC(C)(C)C | C31H37N3O5
